US06136936
(a) Preparation of 1.2-bisindenylethane
50.8 g of indene (437 mmol) were dissolved under an inert atmosphere in 500 ml of tetrahydrofuran in a 2-necked 2 l flask and cooled to -78° C. 175 ml of n-butyllithium (2.5 M in hexane, 437.5 mmol) were added dropwise slowly (1 hour). The mixture was allowed to warm again to room temperature and was stirred for a further 4 hours. It was cooled to -78° C., and 40.42 g of 1,2-dibromoethane (215 mmol) dissolved in 100 ml of tetrahydrofuran were added dropwise (within 20 minutes). After the end of the addition, the temperature was taken to 50° C., stirring was continued for 12 hours, and the mixture was then allowed to cool to room temperature, and 20 ml of water were added. The organic phase was dried and the residue was extracted with pentane. Evaporation in vacuum gave 28.65 g of product (yield=51.6%).

reactant | indene | 437 mmol, 50.8 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | n-butyllithium | 437.5 mmol, 2.5 M, 175 ml | C(CCC)[Li]
reactant | 1,2-dibromoethane | 215 mmol, 40.42 g | BrCCBr | C2H4Br2
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1.2-bisindenylethane | 28.65 g, yield=51.6% | C1(C=CC2=CC=CC=C12)CCC1C=CC2=CC=CC=C12 | C20H18
